US08026257B2
(±)-tert-Butyl 4-((1-(3-bromo-5-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate.
(±)-1-(3-Bromo-5-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)ethyl 2,2,2-trichloroacetimidate (1.69 g, 3.07 mmol) and tert-butyl 4-(4-fluorophenyl)-4-(hydroxymethyl)piperidine-1-carboxylate (1.05 g, 3.38 mmol) were combined in a dichloromethane/cyclohexane mixture (1:1, 8 mL) and cooled to 0° C. The reaction was treated with tetrafluoroboric acid-diethyl ether complex (86 μL, 0.61 mmol), stirred at 0° C. for 1 h, quenched by addition of saturated sodium bicarbonate and diluted with diethyl ether. The layers were separated. The ethereal was washed with water (2×), brine (2×), dried over sodium sulfate, and concentrated. Column chromatography on silica gel (18% ethyl acetate/hexanes) gave 1.2 g (56%) as a white film. 1H-NMR (CDCl3, 500 MHz) δ 7.48 (d, J=1.84 Hz, 1H), 7.19-7.21 (m, 2H), 7.08 (m, 1H), 6.97-7.00 (m, 2H), 5.49-5.56 (m, 2H), 5.01 (q, J=6.1 Hz, 1H), 3.70 (m, 2H), 3.43-3.47 (m, 2H), 3.22 (m, 2H), 3.00-3.05 (m, 2H), 2.04-2.14 (m, 2H), 1.76-1.87 (m, 2H), 1.43 (s, 9H), 1.42 (m, 3H), 0.72-0.82 (m, 2H), 0.08 (s,9H). Mass spec.: 720.42 (MNa)+.

reactant | (±)-1-(3-Bromo-5-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)ethyl 2,2,2-trichloroacetimidate | 3.07 mmol, 1.69 g | ClC(C(OC(C)C=1C=C(C=C2C(=NN(C12)COCC[Si](C)(C)C)Br)Cl)=N)(Cl)Cl | C17H22BrCl4N3O2Si
reactant | tert-butyl 4-(4-fluorophenyl)-4-(hydroxymethyl)piperidine-1-carboxylate | 3.38 mmol, 1.05 g | FC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)CO | C17H24FNO3
solvent | dichloromethane cyclohexane | 8 mL | ClCCl.C1CCCCC1
product | (±)-tert-Butyl 4-((1-(3-bromo-5-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | BrC1=NN(C2=C(C=C(C=C12)Cl)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C32H44BrClFN3O4Si
